data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_707357_0,[C:1]([C:4]([C:2]([H:13])([H:14])[H:15])=[C:3]([N:5]([H:9])[H:10])[O:6][O:7][H:8])([H:11])([H:12])[H:16]>>[C:1]([C:4]1([C:2]([H:13])([H:14])[H:15])[C:3]([N:5]([H:9])[H:10])([O:7][H:8])[O:6]1)([H:11])([H:12])[H:16],13.343787500017612
MR_105264_1,[C:1](/[N:8]=[C:7](/[C:5]([C:2]([H:13])([H:14])[H:15])=[C:6]([C:3]([H:16])([H:17])[H:21])[C:4]([H:18])([H:19])[H:20])[H:9])([H:10])([H:11])[H:12]>>[C:1]([N:8]1[C:6]([C:3]([H:16])([H:17])[H:21])([C:4]([H:18])([H:19])[H:20])[C:5]([C:2]([H:13])([H:14])[H:15])=[C:7]1[H:9])([H:10])([H:11])[H:12],46.06854000000553
MR_507640_0,[N:1]([C:2]([N:4]([H:12])[H:13])=[O:8])(/[C:3](=[C:5](/[O:7][H:10])[H:14])[O:6][H:9])[H:11]>>[N:1](=[C:3](/[C@@:5]([C:2]([N:4]([H:12])[H:13])=[O:8])([O:7][H:10])[H:14])[O:6][H:9])\[H:11],56.8684424999897
MR_364473_1,[C:1]([O:2][O:4][H:8])([O:3][O:5][H:9])([O:6][H:10])[O:7][H:11]>>[C:1]([O:2][O:3][O:5][H:9])([O:4][H:8])([O:6][H:10])[O:7][H:11],45.789929999995564
MR_165746_0,[C:1]1([H:10])([H:11])[C:4]([C:3]([H:14])([H:15])[H:16])([N:7]([C:2]([O:6][H:8])([H:12])[H:13])[H:9])[O:5]1>>[C:1]([C:2]([O:6][H:8])([H:12])[H:13])([O:5]/[C:4]([C:3]([H:14])([H:15])[H:16])=[N:7]/[H:9])([H:10])[H:11],70.0547275000126
MR_175279_1,[C:1]1([C:3]([H:16])([H:17])[H:18])([H:10])[C:5]([N:4]([C:2]([H:13])([H:14])[H:15])[H:9])([C:6](=[C:7]([H:19])[H:20])[H:12])[N:8]1[H:11]>>[C:1]([C:3]([H:16])([H:17])[H:18])(/[C:5]([N:4]([C:2]([H:13])([H:14])[H:15])[H:9])=[N:8]/[H:11])([C:6](=[C:7]([H:19])[H:20])[H:12])[H:10],70.48582000002995
MR_448408_2,[C:1]([N:3]([N:5]([H:10])[H:11])[N:6]([H:12])[H:13])([C:4]([C:2]([H:18])([H:19])[H:20])=[O:9])([N:7]([H:14])[H:15])[N:8]([H:16])[H:17]>>[C:1](\[C:4]([C:2]([H:18])([H:19])[H:20])([N:3]([N:5]([H:10])[H:11])[N:6]([H:12])[H:13])[O:9][H:14])(=[N:7]/[H:15])[N:8]([H:16])[H:17],17.616435000002326
MR_285349_1,[C:1]([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])(/[C:6]([C:5]([H:20])([H:21])[H:22])=[N:9]/[O:8][H:10])[O:7][C:2]([H:11])([H:12])[H:13]>>[C:1]([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])=[C:6]([C:5]([H:20])([H:21])[H:22])[N:9]([O:7][C:2]([H:11])([H:12])[H:13])[O:8][H:10],69.4799374999657
MR_486923_1,[C:1]([N:3]([C:2]([H:10])([H:14])[H:15])[C:5]([N:4]([N:7]=[C:6]([H:16])[H:17])[H:9])=[O:8])([H:11])([H:12])[H:13]>>[C:1]([N:3]([C:2]([H:10])([H:14])[H:15])[C:6]([N:7]1[N:4]([H:9])[C:5]1=[O:8])([H:16])[H:17])([H:11])([H:12])[H:13],58.21756749997206
MR_246094_1,[C:1](/[C:5](=[C:2]([N:3]([H:9])[H:10])\[N:7]=[C:4](\[O:6][H:8])[H:11])[H:12])([H:13])([H:14])[H:15]>>[C:1]([C:5]1([H:12])[C:2]([N:3]([H:9])[H:10])=[N:7][C:4]1([O:6][H:8])[H:11])([H:13])([H:14])[H:15],27.1914574999758
MR_479835_1,[C:1]([N:3](/[C:4]([C:2]([H:14])([H:15])[H:16])=[C:5](\[O:7][H:9])[H:10])[O:6][H:8])([H:11])([H:12])[H:13]>>[C:1]([N:3]1[C:4]([C:2]([H:14])([H:15])[H:16])([O:6][H:8])[C:5]1([O:7][H:9])[H:10])([H:11])([H:12])[H:13],41.36919249999238
MR_337869_1,[C:1](/[C:2]([N:4]([H:10])[H:11])=[C:7](\[N:5]([H:12])[H:13])[H:17])([C:3]([C:6](=[O:9])[H:14])=[C:8]([H:18])[H:19])([H:15])[H:16]>>[C:1]1([H:15])([H:16])[C:2]([N:4]([H:10])[H:11])([C:7]([N:5]([H:12])[H:13])([C:6](=[O:9])[H:14])[H:17])[C:3]1=[C:8]([H:18])[H:19],67.32321999998916
MR_415987_0,[C:1](/[C:3](=[N:2]/[N:4]([H:8])[H:9])[N:6]([H:10])[H:11])([O:5][H:7])([H:12])[H:13]>>[C:1](/[C:3]([N:2]([N:4]([H:9])[H:10])[H:8])=[N:6]\[H:11])([O:5][H:7])([H:12])[H:13],59.2140375000244
MR_534999_2,[C:1]([N:2]([H:6])[H:7])(/[N:3]=[N:4]\[H:8])=[O:5]>>[C:1]([N:2]([H:6])[H:7])(/[N:3]=[N:4]\[H:8])=[O:5],57.75698249999351
MR_612035_0,[C@:1]([C:2]([C:5](=[O:8])[H:15])([H:13])[H:14])([N:3]([H:10])[H:11])([C:4](=[O:7])[H:12])[O:6][H:9]>>[C@:1]1([N:3]([H:10])[H:11])([O:6][H:9])[C:2]([H:13])([H:14])[C@:5]1([O:8][C:4](=[O:7])[H:12])[H:15],69.12288999997543
MR_188601_1,[C:1]([C:4](/[C:6](=[C:3](/[N:5]([H:10])[H:11])[O:8][H:9])[H:12])=[C:7](\[C:2]([H:17])([H:18])[H:19])[H:13])([H:14])([H:15])[H:16]>>[C:1]([C:4]1=[C:6]([H:12])[C@:3]([N:5]([H:10])[H:11])([O:8][H:9])[C@@:7]1([C:2]([H:17])([H:18])[H:19])[H:13])([H:14])([H:15])[H:16],40.56160000003388
MR_290829_1,[C:1]([O:5][N:2]([N:3]([H:7])[H:8])[C:4](=[O:6])[H:9])([H:10])([H:11])[H:12]>>[C:1]([O:5][O:6]/[C:4](=[N:2]/[N:3]([H:7])[H:8])[H:9])([H:10])([H:11])[H:12],71.46409250002122
MR_426421_0,[C@:1]12([C:2]([H:10])([H:11])[H:12])[N:3]([H:7])[C@@:4]1([H:9])[N:6]([H:8])[O:5]2>>[C:1]1([C:2]([H:10])([H:11])[H:12])([H:8])[N:3]([H:7])[C:4]([H:9])=[N:6][O:5]1,27.48638249998024
MR_461985_2,[C:1]([C:3]([O:8][H:10])=[O:9])([C:4]12[C:5]([C:2]([H:13])([H:14])[H:15])([C:6]1([H:16])[H:17])[C:7]2([H:18])[H:19])([H:11])[H:12]>>[C:1]([C:3]([O:8][H:10])=[O:9])([C:4]([C:5]([C:2]([H:13])([H:14])[H:15])=[C:7]([H:18])[H:19])=[C:6]([H:16])[H:17])([H:11])[H:12],46.47390500001649
MR_271523_1,[C:1]12([C:3]([H:13])([H:14])[H:15])[C:5]([H:9])([N:4]([C:2]([H:10])([H:11])[H:12])[O:6]1)[N:7]2[H:8]>>[C:1]1([C:3]([H:13])([H:14])[H:15])([H:8])[O:6][N:4]([C:2]([H:10])([H:11])[H:12])[C:5]([H:9])=[N:7]1,62.26808000001824
